US04435320
(c) Preparation of 2-Amino-3,5-bisfluorosulphonylthiophene
A mixture of 2-chloro-3,5-bisfluorosulphonylthiophene (8.5 g), hexamine (8.5 g) and methanol (90 ml) was stirred under reflux for one hour. The mixture was cooled to 25° C., poured into dilute sulphuric acid and extracted with ethyl acetate to give the product as an oil (6.3 g).

reactant | 2-chloro-3,5-bisfluorosulphonylthiophene | 8.5 g | ClC=1SC(=CC1S(=O)(=O)F)S(=O)(=O)F | C4HClF2O4S3
reactant | hexamine | 8.5 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 90 ml | CO | CH4O
product | 2-Amino-3,5-bisfluorosulphonylthiophene | 6.3 g | NC=1SC(=CC1S(=O)(=O)F)S(=O)(=O)F | C4H3F2NO4S3
